US07705155B2
Synthesis of 4-(2-ethyl-[1,3]dioxan-2-yl)-2-methoxy-pyridine
To a stirred solution of 38.23 g of 1-(2-methoxy-pyridin-4-yl)-propan-1-one (231.4 mmol) as obtainable from Example 2 in 575 mL toluene were added 100 mL 1,3-propandiol (1.39 mol, 6.0 eq), 473 μL sulfuric acid (4.63 mmol, 0.02 eq) and 889 mg para-toluene sulfonic acid monohydrate (4.63 mmol, 0.02 eq). The reaction mixture was heated for 72 h (NMR control: <2% starting material 1-(2-methoxy-pyridin-4-yl)-propan-1-one) to reflux using a Dean-Stark trap (oil bath temperature 160° C.). After cooling down to room temperature, 500 mL saturated aqueous NaHCO3 were added and the phases were separated. The organic phase was washed twice with 250 mL, in total with 500 mL brine and was then dried over 50 g Na2SO4 (30 min) and filtered. The filter cake was washed with 100 mL toluene. After evaporation of solvent in a rotary evaporator (50° C./10 mbar), the crude product (40.31 g, 78% by weight) was obtained as a brown oil (HPLC purity 93.9% area). Purification was achieved using a high vacuum distillation (bp 95° C. at 0.056 mbar, oil bath temperature 125° C., 40 cm Vigreux column) furnishing the title compound (31.80 g, 142.4 mmol, 62% by weight) as colourless liquid.

reactant | 1-(2-methoxy-pyridin-4-yl)-propan-1-one | 231.4 mmol, 38.23 g | COC1=NC=CC(=C1)C(CC)=O | C9H11NO2
reactant | 1,3-propandiol | 1.39 mol, 100 mL, 6.0 eq | C(CCO)O | C3H8O2
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 575 mL | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | 4.63 mmol, 473 μL, 0.02 eq | S(O)(O)(=O)=O | H2O4S
catalyst | para-toluene sulfonic acid monohydrate | 4.63 mmol, 889 mg, 0.02 eq | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-(2-ethyl-[1,3]dioxan-2-yl)-2-methoxy-pyridine | 142.4 mmol, 31.80 g | C(C)C1(OCCCO1)C1=CC(=NC=C1)OC | C12H17NO3
